US06967220B2
To a solution of N-benzyloxy-N-(3,5-dichloro-4-hydroxybenzyl)formamide in methylene chloride (5 ml) was added n-butanol (110 ul, 1.2 mmol) and Polymer-bound triphenyl phosphine resin (500 mg, 1,2 mmol/g, 0.6 mmol). The reaction mixture was stirred for 0.5 h at room temperature then cooled to 0° C. A solution of DEAD (0.6 mmol, 95 ul) in methylene chloride (1 ml) was added and the reaction mixture stirred at room temperature for 16 h. The resin was filtered and washed with methylene chloride three times and the filtrate was evaporated to afford the crude N-benzyloxy-N-(4-butoxy-3,5-dichlorobenzyl)formamide as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.25 (s, 1H), 7.38 (m, 3H), 7.28 (m, 2H), 7.19 (s, 2H), 4.78 (s, 2H), 4.57 (s, 2H), 4.00 (t, j=6.4 Hz, 2H), 1.82 (quint, j=7.6 Hz, 2H), 1.55(sext, j=7.6 Hz, 2H), 0.98 (t, j=7.6 Hz, 3H). M+1=382

reactant | N-benzyloxy-N-(3,5-dichloro-4-hydroxybenzyl)formamide | C(C1=CC=CC=C1)ON(C=O)CC1=CC(=C(C(=C1)Cl)O)Cl | C15H13Cl2NO3
reactant | n-butanol | 1.2 mmol, 110 ul | C(CCC)O | C4H10O
reactant | triphenyl phosphine resin | 0.6 mmol, 500 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.6 mmol, 95 ul | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxy-N-(4-butoxy-3,5-dichlorobenzyl)formamide | C(C1=CC=CC=C1)ON(C=O)CC1=CC(=C(C(=C1)Cl)OCCCC)Cl | C19H21Cl2NO3
